US07906502B2
N-({4-[(2R,3R)-3-{[2-(1,3-benzodioxol-5-yl)-2-hydroxyethyl]thio}-1-(4-fluorophenyl)-4-oxoazetidin-2-yl]phenoxy}acetyl)glycyl-b,b-dimethyl-D-phenylalanine
To a stirred solution of N-({4-[(2R,3R)-3-{[2-(1,3-benzodioxol-5-yl)-2-hydroxyethyl]thio}-1-(4-fluorophenyl)-4-oxoazetidin-2-yl]phenoxy}acetyl)glycine (15.6 mg, 0.027 mmol) in DMF (2 ml) was added N-methylmorpholine (15 μl, 0.091 mmol). TBTU (12.2 mg, 0.038 mmol) was added and the reaction mixture was stirred at 30° C. for 1 hour. β,β-dimethyl-D-phenylalanine trifluoroacetate (10.2 mg, 0.033 mmol) was added and the mixture was stirred at ambient temperature overnight. The solution was purified with preparative HPLC on a C8 column, UV 240/260 nm. A gradient from 20 to 45% MeCN in 0.1M NH4OAc buffer was used as eluent. The pure fractions were collected and the MeCN was removed under reduced pressure. The remaining water solution was acidified to pH 1 with HCl (1M) and extracted with DCM. The organic phase was passed through a phase separator and concentrated under reduced pressure. The residue was dissolved in MeCN and water. After lyophilisation, the title compound was obtained. H-NMR (400 MHz, DMSO-d6): 1.28 (d, 6H), 2.74-2.92 (m, 2H), 3.58-3.82 (m, 2H) 4.30-4.21 (m, 1H), 4.46 (s, 2H), 4.53-4.65 (m, 2H) 5.00 (b, 0.5H), 5.03 (b, 0.5H), 5.53 (b, 1H), 5.90-5.94 (m, 2H), 6.70-6.79 (m, 2H), 6.82 (s, 1H), 6.90-6.98 (m, 2H), 7.07-7.15 (m, 3H), 7.18-7.26 (m, 4H), 7.27-7.37 (m, 4H), 7.78 (b, 1H), 8.19 (t, 1H). M/z: 742.68 (M−1).

reactant | N-({4-[(2R,3R)-3-{[2-(1,3-benzodioxol-5-yl)-2-hydroxyethyl]thio}-1-(4-fluorophenyl)-4-oxoazetidin-2-yl]phenoxy}acetyl)glycine | 0.027 mmol, 15.6 mg | O1COC2=C1C=CC(=C2)C(CS[C@@H]2[C@H](N(C2=O)C2=CC=C(C=C2)F)C2=CC=C(OCC(=O)NCC(=O)O)C=C2)O | C28H25FN2O8S
reactant | N-methylmorpholine | 0.091 mmol, 15 μl | CN1CCOCC1 | C5H11NO
reactant | TBTU | 0.038 mmol, 12.2 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | β,β-dimethyl-D-phenylalanine trifluoroacetate | 0.033 mmol, 10.2 mg | FC(C(=O)O)(F)F.CC([C@@H](N)C(=O)O)(C1=CC=CC=C1)C
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | N-({4-[(2R,3R)-3-{[2-(1,3-benzodioxol-5-yl)-2-hydroxyethyl]thio}-1-(4-fluorophenyl)-4-oxoazetidin-2-yl]phenoxy}acetyl)glycyl-b,b-dimethyl-D-phenylalanine | O1COC2=C1C=CC(=C2)C(CS[C@@H]2[C@H](N(C2=O)C2=CC=C(C=C2)F)C2=CC=C(OCC(=O)NCC(=O)N[C@H](C(C1=CC=CC=C1)(C)C)C(=O)O)C=C2)O | C39H38FN3O9S
